US03983122
A mixture of 19.5 g (0.1 mole) of 3,4-dihydro-7-fluoroisoquinoline hydrochloride and 18.6 g (0.15 mole) of 1-cyclohexen-1-yl methyl ketone in 22 ml of ethanol is refluxed with stirring overnight then cooled to room temperature. The solution is poured into water, whereupon a suspension of undissolved material forms, and is extracted with ether. The aqueous layer and its suspended solid are stirred and treated with ammonium hydroxide solution to pH 8.5 to 9.0. The suspended solid is broken up, collected by decantation washed with water, dissolved in methylene chloride, dried over sodium sulfate and evaporated. The remaining residue is dissolved in benzene and chromatographed on alumina and eluted with benzene. The resulting solid is triturated with hexane and dried to give 2,3,4,4a,6,7,11b, 12,13,13a-decahydro-10-fluoro-1H-dibenzo[a,f]quinolizin-13-one, M.P. 130°-136°C.

reactant | 3,4-dihydro-7-fluoroisoquinoline hydrochloride | 0.1 mole, 19.5 g | Cl.FC1=CC=C2CCN=CC2=C1
reactant | 1-cyclohexen-1-yl methyl ketone | 0.15 mole, 18.6 g | CC(=O)C1=CCCCC1 | C8H12O
reactant | water | O | H2O
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | 2,3,4,4a,6,7,11b, 12,13,13a-decahydro-10-fluoro-1H-dibenzo[a,f]quinolizin-13-one | FC=1C=CC2=C(C3CC(C4C(N3CC2)CCCC4)=O)C1 | C17H20FNO
